US06900215B2
2-Chloro-4-methoxypyridine (2.0 g, 13.9 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (4.75 g, 17.8 mmol) using the method in Example 47. Purification by chromatography on silica gel eluting with dichloromethane containing 20% isohexane then recrystallisation from toluene/isohexane gave 2-(2-fluoro-5-nitrophenyl)-4-methoxypyridine as a white solid: δH (400 MHz, CDCl3) 3.93 (3H, s), 6.88 (1H, dd, J 6 and 2), 7.31 (1H, t, J 10), 7.35-7.37 (1H, m), 8.24-8.29 (1H, m), 8.59 (1H, d, J 6), 8.98 (1H, dd, J 7 and 3).

reactant | 2-Chloro-4-methoxypyridine | 13.9 mmol, 2.0 g | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 17.8 mmol, 4.75 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 2-(2-fluoro-5-nitrophenyl)-4-methoxypyridine | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC(=C1)OC | C12H9FN2O3
